US09382236B2
(2) 5-[4-[(3-Pyridylacetyl)amino]phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione hydrochloride
5-[4-[(3-Pyridylacetyl)amino]phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione (6.2 mg, 0.014 mmol) was dissolved in chloroform (6 mL), the solution was added with a 4 M solution of hydrogen chloride in ethyl acetate (0.01 mL), and the solvent was evaporated under reduced pressure. The residue was concentrated from ethyl acetate under reduced pressure, and then washed with ethyl acetate to obtain the title compound (4.8 mg, yield 71%) as pale brown powder.

reactant | 5-[4-[(3-Pyridylacetyl)amino]phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | 0.014 mmol, 6.2 mg | N1=CC(=CC=C1)CC(=O)NC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C26H20N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 0.01 mL | C(C)(=O)OCC | C4H8O2
product | 5-[4-[(3-Pyridylacetyl)amino]phenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione hydrochloride | 4.8 mg, yield 71% | Cl.N1=CC(=CC=C1)CC(=O)NC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | InChI=1S/C26H20N4O3.ClH/c31-23(14-17-4-3-13-27-16-17)28-19-8-10-20(11-9-19)30-22-12-7-18-5-1-2-6-21(18)26(22)29-24(32)15-25(30)33;/h1-13,16H,14-15H2,(H,28,31)(H,29,32);1H
